US07638515B2
4-(2-Fluoro-3-methoxyphenyl)-2-hydroxy-4-methylpentanoic acid methyl ester
19.58 g (77 mmol) of 4-(2-fluoro-3-methoxyphenyl)-4-methylpentanoic acid methyl ester is introduced into 245 ml of tetrahydrofuran, and the reaction mixture is cooled to −70° C. Within one hour, 220.7 ml of a 0.5 molar solution of potassium-bis-(trimethylsilylamide) in toluene is added in drops, and the reaction mixture is then stirred for 45 more minutes at −70° C. 28.3 g (107.79 mmol) of Davis reagent, dissolved in 245 ml of tetrahydrofuran, is now added in drops within 40 minutes. After two hours of stirring at −70° C., 250 ml of saturated ammonium chloride solution is slowly added in drops, and in this case, the batch is brought to room temperature. After extraction with methyl tert-butyl ether, the combined organic extracts are treated as usual with water and brine. After the solvent is spun off, the residue is chromatographed several times on silica gel (mobile solvent ethyl acetate/hexane). 12.14 g (58.3%) of the desired compound is ultimately isolated.

reactant | 4-(2-fluoro-3-methoxyphenyl)-4-methylpentanoic acid methyl ester | 77 mmol, 19.58 g | COC(CCC(C)(C)C1=C(C(=CC=C1)OC)F)=O | C14H19FO3
reactant | Davis reagent | 107.79 mmol, 28.3 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 245 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 245 ml | O1CCCC1 | C4H8O
product | 4-(2-Fluoro-3-methoxyphenyl)-2-hydroxy-4-methylpentanoic acid methyl ester | 12.14 g, 58.3% | COC(C(CC(C)(C)C1=C(C(=CC=C1)OC)F)O)=O | C14H19FO4
